US06673795B2
In analogy to the procedure described in example 47b, the crude 4-chloro-6-(2-hydroxy-ethylamino)-2-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile was treated with 1-phenyl-piperazine in dioxane in the presence of N-ethyl-diisopropylamine at 100° C. to yield 4-(2-hydroxy-ethylamino)-6-(4-phenyl-piperazin-1-yl)-2-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile as an amorphous, light brown solid; MS: [M+H]+=431.

reactant | 4-chloro-6-(2-hydroxy-ethylamino)-2-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCCO)NCC=1C=NC=CC1 | C13H13ClN6O
reactant | 1-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(2-hydroxy-ethylamino)-6-(4-phenyl-piperazin-1-yl)-2-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile | OCCNC1=NC(=NC(=C1C#N)N1CCN(CC1)C1=CC=CC=C1)NCC=1C=NC=CC1 | C23H26N8O
